US07250429B2
6-Hydroxymethyl-N-methyl-N-neopentylthiazolo[3,2-a]benzimidazole-2-carboxamide
In an ice bath, 1-hydroxybenzotriazole (2.03 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5.75 g) were added to a DMF (25 ml) suspension of 6-hydroxymethylthiazolo[3,2-a]benzimidazole-2-carboxylic acid (2.48 g), and the reaction mixture was stirred for 30 minutes in the ice bath and then for 2 hours by removing the ice bath. Methylneopentylamine hydrochloride (2.75 g) and triethylamine (2.8 ml) were added to the reaction mixture, and the resulting reaction mixture was stirred at the same temperature for 2 hours. After completion of the reaction, the reaction mixture was poured into 1 M sodium hydroxide aqueous solution (50 ml). The insoluble matter was collected by filtration, washed with water (150 ml) and then dried by heating under a reduced pressure to obtain the pale yellow title compound (1.98 g).

reactant | 1-hydroxybenzotriazole | 2.03 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.75 g | Cl.CN(CCCN=C=NCC)C
reactant | 6-hydroxymethylthiazolo[3,2-a]benzimidazole-2-carboxylic acid | 2.48 g | OCC=1C=CC2=C(N3C(=N2)SC(=C3)C(=O)O)C1 | C11H8N2O3S
reactant | sodium hydroxide | 1 M, 50 ml | [OH-].[Na+]
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 6-Hydroxymethyl-N-methyl-N-neopentylthiazolo[3,2-a]benzimidazole-2-carboxamide | 1.98 g | OCC=1C=CC2=C(N3C(=N2)SC(=C3)C(=O)N(CC(C)(C)C)C)C1 | C17H21N3O2S
